US09062048B2
Step B: 4-(isoxazolidin-2-yl)cyclohexanone
2-(1,4-dioxaspiro[4.5]decan-8-yl)isoxazolidine (350 mg, 1.64 mmol) from above step A, was dissolved in acetonitrile, treated with 6N HCl, and stirred at room temperature for 18 h. reaction mixture was concentrated in vacuo, treated with saturated NaHCO3 to pH 6. The solvents were removed under vacuum and the residue treated with saturated NaCl (2 mL) and extracted with 4:1 EtOAc/iPrOH (x4). The organic fractions were combined, filtered and evaporated to give the title compound.

reactant | 2-(1,4-dioxaspiro[4.5]decan-8-yl)isoxazolidine | 1.64 mmol, 350 mg | O1CCOC12CCC(CC2)N2OCCC2 | C11H19NO3
reactant | HCl | 6N | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-(isoxazolidin-2-yl)cyclohexanone | O1N(CCC1)C1CCC(CC1)=O | C9H15NO2
